US05532240
A mixture of 0.9 g of 6-acetyl-2-(2-chloroethyl)-3-ethyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine, 1.0 g of 4-(4,6-dichlorobenzo(b)furan-3-yl)piperidine hydrochloride, 0.5 g of potassium carbonate, 0.5 g of potassium iodide, 25 ml of dimethylformamide and 25 ml of toluene was stirred at 80° C. for 6 hours and then poured into water. The toluene layer was washed with water, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by column chromatography on a silica gel and then dissolved into ethanol to make a hydrochloride. The resulting crystals were recrystallized from isopropyl alcohol to give 6-acetyl-2-(2-(4-(4,6-dichlorobenzo(b)furan-3-yl)piperidin-1-yl)ethyl)-3-ethyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine hydrochloride, m.p. 260° C. (decomposition).

reactant | 6-acetyl-2-(2-chloroethyl)-3-ethyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine | 0.9 g | C(C)(=O)N1CC2=C(CC1)C(=C(S2)CCCl)CC | C13H18ClNOS
reactant | 4-(4,6-dichlorobenzo(b)furan-3-yl)piperidine hydrochloride | 1.0 g | Cl.ClC1=CC(=CC=2OC=C(C21)C2CCNCC2)Cl
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.5 g | [I-].[K+]
solvent | water | O | H2O
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 6-acetyl-2-(2-(4-(4,6-dichlorobenzo(b)furan-3-yl)piperidin-1-yl)ethyl)-3-ethyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine hydrochloride | Cl.C(C)(=O)N1CC2=C(CC1)C(=C(S2)CCN2CCC(CC2)C=2C1=C(OC2)C=C(C=C1Cl)Cl)CC | InChI=1S/C26H30Cl2N2O2S.ClH/c1-3-19-20-6-11-30(16(2)31)14-25(20)33-24(19)7-10-29-8-4-17(5-9-29)21-15-32-23-13-18(27)12-22(28)26(21)23;/h12-13,15,17H,3-11,14H2,1-2H3;1H
